US07868036B2
f) Ethyl 2-amino-4-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-5-methylhexanoate
A solution of 1.57 g of 3,6-diethoxy-2-{2-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutyl}-2,5-dihydropyrazine in 14 ml of acetonitrile at room temperature is admixed with 14 ml of 1N HCl. After 30 minutes, the reaction mixture is poured into a stirred mixture of 15 ml of saturated aqueous sodium bicarbonate solution and 15 g of ice, and the mixture is extracted with dichloromethane (3×). The combined organic phases are washed with water (3×), dried with sodium sulphate and concentrated by evaporation. The crude title compound is identified on the basis of the Rf value from the residue.

reactant | 3,6-diethoxy-2-{2-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutyl}-2,5-dihydropyrazine | 1.57 g | C(C)OC=1C(N=C(CN1)OCC)CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC | C27H38N2O4
reactant | HCl | 1N, 14 ml | Cl | ClH
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
reactant | acetonitrile | 14 ml | C(C)#N | C2H3N
product | Ethyl 2-amino-4-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-5-methylhexanoate | NC(C(=O)OCC)CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC | C23H33NO4
